US08614213B2
Step 6: (4-Amino-3-methyl-cyclohexylmethyl)-phenyl-amine
(4-Benzylamino-3-methyl-cyclohexylmethyl)-phenyl-amine (160 mg, 0.52 mmol) and ammonium formate (164 mg, 2.60 mmol) in EtOH (5 mL) is treated with 10% Pd/C (30 mg) and heated at reflux for 2 hours. The Pd/C is removed by filtration and washed with MeOH. The filtrate is concentrated in vacuo to afford the title compound which is used without further purification.

reactant | (4-Benzylamino-3-methyl-cyclohexylmethyl)-phenyl-amine | 0.52 mmol, 160 mg | C(C1=CC=CC=C1)NC1C(CC(CC1)CNC1=CC=CC=C1)C | C21H28N2
reactant | ammonium formate | 2.60 mmol, 164 mg | C(=O)[O-].[NH4+]
solvent | EtOH | 5 mL | CCO | C2H6O
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | (4-Amino-3-methyl-cyclohexylmethyl)-phenyl-amine | NC1C(CC(CC1)CNC1=CC=CC=C1)C | C14H22N2
